US04640922
2,6-Dimethyl-5-ethoxycarbonyl-3-N-ethoxycarbonyl-4-(2'-nitrophenyl)-3,4-dihydropyrimidine
To a solution of 5-ethoxycarbonyl-2,6-dimethyl-4-(2'-nitrophenyl)-dihydropyrimidine (756 mg, 2.49 millimole) and triethylamine (374 mg, 3.7 millimole) in 30 ml of chloroform ethyl chlorocarbonate (406 mg, 3.74 millimole) was added dropwise with stirring in ice and the mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with 2% aqueous NaOH solution and water, dried and evaporated to remove the solvent. The obtained oil (730 mg) was purified on silica gel by column chromatography and eluted with 1% MeOH/CHCl3 to obtain the title product as crystals. The crystals were recrystallized from acetone-n-hexane to obtain colorless prisms (m.p. 130°-131.5°, 290 mg, 31% yield).

reactant | 5-ethoxycarbonyl-2,6-dimethyl-4-(2'-nitrophenyl)-dihydropyrimidine | 2.49 millimole, 756 mg | C(C)OC(=O)C=1C(=NC(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C15H17N3O4
reactant | triethylamine | 3.7 millimole, 374 mg | C(C)N(CC)CC | C6H15N
reactant | chloroform ethyl chlorocarbonate | 3.74 millimole, 30 ml, 406 mg | C(C)OC(=O)Cl.C(Cl)(Cl)Cl
product | 2,6-Dimethyl-5-ethoxycarbonyl-3-N-ethoxycarbonyl-4-(2'-nitrophenyl)-3,4-dihydropyrimidine | CC1=NC(=C(C(N1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C18H21N3O6
